US07491724B2
Part 4. tert-butyl 4-(4-cyano-3,5-dimethylphenyl)-3,6-dihydropyridine-1(2H)-carboxylate
A mixture of tert-butyl 4-(3,5-dimethyl-4-[(trifluoromethyl)sulfonyl]oxyphenyl)-3,6-dihydropyridine-1(2H)-carboxylate (2.80 g, 0.00643 mol) and zinc cyanide (1.51 g, 0.0128 mol) in N,N-dimethylformamide (15.0 mL, 0.194 mol) was degassed with nitrogen for 15 min. To the mixture was added tetrakis(triphenylphosphine)palladium(0) (0.74 g, 0.00064 mol). The reaction mixture was heated at 100 Celsius for 4 h. The mixture was diluted with ether, washed with aq. sodium bicarbonate, brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified on silica gel, eluting with 0 to 10% EtOAc in hexane, to generate the titled compound (1.08 g, 53.66%). LCMS (M+H) 313.1.

reactant | tert-butyl 4-(3,5-dimethyl-4-[(trifluoromethyl)sulfonyl]oxyphenyl)-3,6-dihydropyridine-1(2H)-carboxylate | 0.00643 mol, 2.80 g | CC=1C=C(C=C(C1OS(=O)(=O)C(F)(F)F)C)C=1CCN(CC1)C(=O)OC(C)(C)C | C19H24F3NO5S
reactant | N,N-dimethylformamide | 0.194 mol, 15.0 mL | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
catalyst | zinc cyanide | 0.0128 mol, 1.51 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.00064 mol, 0.74 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-(4-cyano-3,5-dimethylphenyl)-3,6-dihydropyridine-1(2H)-carboxylate | C(#N)C1=C(C=C(C=C1C)C=1CCN(CC1)C(=O)OC(C)(C)C)C | C19H24N2O2
